* NGSPICE file created from mult4_SarsaNada_e8_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9.ext - technology: sky130A

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a32o_1 abstract view
.subckt sky130_fd_sc_hd__a32o_1 A1 A2 A3 B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a22o_1 abstract view
.subckt sky130_fd_sc_hd__a22o_1 A1 A2 B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_1 abstract view
.subckt sky130_fd_sc_hd__nand4_1 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21a_1 abstract view
.subckt sky130_fd_sc_hd__o21a_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o211a_1 abstract view
.subckt sky130_fd_sc_hd__o211a_1 A1 A2 B1 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__conb_1 abstract view
.subckt sky130_fd_sc_hd__conb_1 VGND VNB VPB VPWR HI LO
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a211oi_1 abstract view
.subckt sky130_fd_sc_hd__a211oi_1 A1 A2 B1 C1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21bo_1 abstract view
.subckt sky130_fd_sc_hd__a21bo_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a221o_1 abstract view
.subckt sky130_fd_sc_hd__a221o_1 A1 A2 B1 B2 C1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

.subckt mult4_SarsaNada_e8_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9 A[0] A[1]
+ A[2] A[3] B[0] B[1] B[2] B[3] P[0] P[1] P[2] P[3] P[4] P[5] P[6] P[7] VGND VPWR
XFILLER_3_34 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_49_ _20_ _21_ VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__or2_1
XFILLER_0_13 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_3_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_48_ _18_ _19_ VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__and2_1
XFILLER_0_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xoutput10 net10 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
XFILLER_3_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_9_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_35 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_47_ _18_ _19_ VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__nor2_1
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xoutput9 net9 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
XFILLER_4_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_46_ net7 net3 _09_ _08_ net4 VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__a32o_1
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xoutput12 net12 VGND VGND VPWR VPWR P[4] sky130_fd_sc_hd__buf_2
XFILLER_6_59 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_29_ _02_ _03_ _00_ VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__a21oi_1
XFILLER_3_16 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_45_ net3 net8 VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__and2_1
X_28_ net6 net2 net7 net1 VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__a22o_1
Xoutput13 net13 VGND VGND VPWR VPWR P[5] sky130_fd_sc_hd__buf_2
XFILLER_7_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_28 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_44_ _13_ _17_ _16_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__a21oi_1
X_27_ net6 net2 net7 net1 VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__nand4_1
Xoutput14 net14 VGND VGND VPWR VPWR P[6] sky130_fd_sc_hd__buf_2
X_43_ _11_ _15_ VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__nor2_1
X_26_ net6 net2 net7 net1 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__and4_1
Xoutput15 net15 VGND VGND VPWR VPWR P[7] sky130_fd_sc_hd__buf_2
XFILLER_6_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_9_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_42_ _12_ _15_ _11_ VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__o21a_1
XFILLER_4_40 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_25_ net5 net3 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__and2_1
XFILLER_7_62 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_40 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_4_52 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_41_ _01_ _05_ _13_ _14_ VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__o211a_1
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_40_ net6 net3 net8 net1 VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__a22o_1
XFILLER_4_64 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_1_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_1
XFILLER_1_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput3 A[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_2
XFILLER_1_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_37 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput4 A[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__buf_1
XFILLER_1_49 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput5 B[0] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput6 B[1] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__clkbuf_2
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xmult4_SarsaNada_e8_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9_16 VGND VGND VPWR
+ VPWR mult4_SarsaNada_e8_SARSA_RUIDO_e9_SARSA_RUIDO_e9_SARSA_RUIDO_e9_16/HI P[0]
+ sky130_fd_sc_hd__conb_1
Xinput7 B[2] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__buf_1
XFILLER_5_61 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_57_ net1 VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__clkbuf_1
XFILLER_4_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_5_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xinput8 B[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_2
XFILLER_8_51 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_39_ net6 net1 net3 net8 VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__nand4_1
XFILLER_5_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_55_ _15_ _24_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__nor2_1
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_63 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_38_ net6 net1 net3 net8 VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__and4_1
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_54_ _13_ _14_ _01_ _05_ VGND VGND VPWR VPWR _24_ sky130_fd_sc_hd__a211oi_1
XFILLER_2_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_37_ _06_ _10_ VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__xor2_1
XFILLER_8_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_53_ _07_ _23_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xnor2_1
XFILLER_2_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_7 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_36_ net4 _08_ _09_ VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__a21bo_1
X_52_ net8 net4 _23_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__and3_1
XFILLER_2_56 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_35_ net2 net8 net4 net6 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__a22o_1
X_51_ _11_ _12_ _15_ _18_ _21_ VGND VGND VPWR VPWR _23_ sky130_fd_sc_hd__a221o_1
XFILLER_2_68 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_34_ net6 net2 net8 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__and3_1
X_50_ _16_ _22_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__xnor2_1
X_33_ net8 net4 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_36 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_32_ net7 net3 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__nand2_1
X_31_ _04_ _05_ VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__nor2_1
XFILLER_8_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_30_ _00_ _02_ _03_ VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__and3_1
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_5_17 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_42 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

